US09416135B2
To a solution of 2-methyl-1-(6-(methylthio)-1H-indol-2-yl)propan-1-one (600 mg, 2.57 mmol) and Bu4NBr (4.12 g, 12.85 mmol) in 9 N NaOH (10 mL, cooled) was added tert-butyl(2-bromoethyl)carbamate (2.87 g, 12.85 mmol). The reaction mixture was stirred at rt for 72 h. The mixture was diluted with water (20 mL) at 0° C., extracted with EtOAc (20 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, filtered, concentrated and purified by column chromatography on silica gel eluting with PE/EtOAc 10:1 to afford tert-butyl(2-(2-isobutyryl-6-(methylthio)-1H-indol-1-yl)ethyl)carbamate (200 mg, 20.66% yield) as a colorless oil. LC-MS MS (ESI) m/z 321.1 [M−56+H]+, 277.1 [M−100+H]+. 1H NMR (CDCl3 400 MHz): δ 7.57 (d, J=8.4 Hz, 1H), 7.38 (s, 1H), 7.29 (s, 1H), 7.10 (d, J=8.4 Hz, 1H), 4.80 (brs, 1H), 4.62 (t, J=6.4 Hz, 2H), 3.58-3.42 (m, 3H), 2.58 (s, 3H), 1.38 (s, 9H), 1.24 (d, J=6.8 Hz, 6H).

reactant | 2-methyl-1-(6-(methylthio)-1H-indol-2-yl)propan-1-one | 2.57 mmol, 600 mg | CC(C(=O)C=1NC2=CC(=CC=C2C1)SC)C | C13H15NOS
reactant | tert-butyl(2-bromoethyl)carbamate | 12.85 mmol, 2.87 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
catalyst | Bu4NBr | 12.85 mmol, 4.12 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
solvent | NaOH | 9 N, 10 mL | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | tert-butyl(2-(2-isobutyryl-6-(methylthio)-1H-indol-1-yl)ethyl)carbamate | 200 mg, 20.66% yield | C(C)(C)(C)OC(NCCN1C(=CC2=CC=C(C=C12)SC)C(C(C)C)=O)=O | C20H28N2O3S
